US06548506B2
7.6 cm3 of a 45% solution of choline hydroxide in methanol were added to a suspension of 7.6 g of 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid in 75 cm3 of methanol. The reaction mixture was stirred for approximately 2 hours at approximately 25° C. The solution was filtered in order to remove a slight insoluble material and was concentrated at approximately 50° C. on a rotary evaporator at approximately 20 kPa. The residual solid was recrystallized from 70 cm3 of 2-propanol and 30 cm3 of methanol. The crystals were filtered off with 10 cm3 of 2-propanol on each occasion and dried in an oven at 100° C. at 10 kPa. 7.4 g of choline 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate were obtained in the form of a yellow solid melting at about 285-90° C.

reactant | choline hydroxide | [OH-].OCC[N+](C)(C)C
reactant | 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 7.6 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CCN(CC1)C1=CC=C(C=C1)F | C24H20F2N4O3
solvent | methanol | CO | CH4O
solvent | methanol | 75 cm3 | CO | CH4O
product | choline 7-fluoro-8-[4-(4-fluorophenyl)piperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 7.4 g | OCC[N+](C)(C)C.FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)[O-])C)C=C1N1CCN(CC1)C1=CC=C(C=C1)F | InChI=1S/C24H20F2N4O3.C5H14NO/c1-28-13-18(24(32)33)22(31)17-10-14-11-19(26)21(12-20(14)27-23(17)28)30-8-6-29(7-9-30)16-4-2-15(25)3-5-16;1-6(2,3)4-5-7/h2-5,10-13H,6-9H2,1H3,(H,32,33);7H,4-5H2,1-3H3/q;+1/p-1
